US04462992
1-(2-Hydroxycyclopentyl)-2-nitroimidazole
A suspension of 0.339 g (3 mmol) of 2-nitroimidazole, 30 ml of ethanol, 3.5 ml of cyclopentene oxide and 0.15 g of potassium carbonate was refluxed with stirring under nitrogen for 20 hr. A clear yellow solution resulted; this was evaporated and the residue dissolved in 50 ml of chloroform and filtered. The filtrate was evaporated to yield 0.28 g (47.3%) of the title compound. It was recrystallized from ethyl acetate, mp 109° C.

reactant | 2-nitroimidazole | 3 mmol, 0.339 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | cyclopentene oxide | 3.5 ml | C12C(CCC1)O2 | C5H8O
reactant | potassium carbonate | 0.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(2-Hydroxycyclopentyl)-2-nitroimidazole | 0.28 g, 47.3% | OC1C(CCC1)N1C(=NC=C1)[N+](=O)[O-] | C8H11N3O3
